US04013473
102 g of cyclopentene are added dropwise to 244 g of 3,5-dimethylphenol and 20 g of p-toluene sulphonic acid at 120° C. The mixture is then stirred at this temperature for 2 h. After removal of the catalyst by washing with sodium hydrogen carbonate solution the mixture is fractionated. At boiling point 104° C (0.5 mm Hg) 90 g of 3,5-dimethyl-2-cyclopentylphenol are obtained.

reactant | cyclopentene | 102 g | C1=CCCC1 | C5H8
reactant | 3,5-dimethylphenol | 244 g | CC=1C=C(C=C(C1)C)O | C8H10O
reactant | p-toluene sulphonic acid | 20 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 3,5-dimethyl-2-cyclopentylphenol | 90 g | CC=1C(=C(C=C(C1)C)O)C1CCCC1 | C13H18O
